US07538111B2
4-(3-oxopropyl)-1-piperidinecarboxylic acid, phenylmethyl ester
0.81 ml of dimethylsulphoxide in solution in 10 ml of dichloromethane (DCM) is cooled to −50° C. and 0.42 ml (4.8 mM) of oxalyl chloride in solution in 1.5 ml of DCM are added. The mixture is agitated for 10 minutes at −60° C. are then, at this temperature, 1.21 g (4.4 mM) of the benzyl ester of 4-(3-hydroxypropyl)piperidinecarboxylic acid in solution in 6 ml of DCM are added dropwise. The reaction mixture is agitated for 30 minutes at −50° C. and 3 ml of triethylamine are then added dropwise and the temperature is allowed to rise up to ambient temperature in 2 hours. The mixture is hydrolysed on 25 ml of N hydrochloric acid and extracted with DCM. The organic phase is washed with water, dried over magnesium sulphate and concentrated under reduced pressure. The crude product is purified by silica gel chromatography in eluting with the aid of a cyclohexane/ethyl acetate mixture (75/25; v/v). The product sought after is thus obtained as a yellow oil (yield=83%).

reactant | dimethylsulphoxide | 0.81 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 4.8 mM, 0.42 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(3-hydroxypropyl)piperidinecarboxylic acid | OCCCC1CCN(CC1)C(=O)O | C9H17NO3
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | DCM | 1.5 ml | ClCCl | CH2Cl2
solvent | DCM | 6 ml | ClCCl | CH2Cl2
solvent | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
product | 4-(3-oxopropyl)-1-piperidinecarboxylic acid, phenylmethyl ester | yield=83% | O=CCCC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C16H21NO3
